US07247635B2
A mixture of ethyl 1-[4-(4-chlorobenzoylamino)phenyl]-5-trifluoromethyl-4H-pyrazole-4-carboxylate (150 mg), 1 N sodium hydroxide aqueous solution (1 ml) and ethanol (2 ml) was stirred at 45° C. for 4 hours. After spontaneous cooling, 1 N hydrochloric acid aqueous solution (2 ml) was added to the reaction solution, the thus formed product was extracted with ethyl acetate and then the extract was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The resulting residue was recrystallized from ethanol to give 1-[4-(4-chlorobenzoylamino)phenyl]-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (91 mg) as colorless powder crystals.

reactant | ethyl 1-[4-(4-chlorobenzoylamino)phenyl]-5-trifluoromethyl-4H-pyrazole-4-carboxylate | 150 mg | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)N2N=CC(C2C(F)(F)F)C(=O)OCC)C=C1 | C20H17ClF3N3O3
reactant | sodium hydroxide | 1 N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-[4-(4-chlorobenzoylamino)phenyl]-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 91 mg | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)N2N=CC(=C2C(F)(F)F)C(=O)O)C=C1 | C18H11ClF3N3O3
